US05977178
A suspension of 20% palladium hydroxide on charcoal (4.63 g) and N-((1R)-1-benzyl-2-(benzylamino)ethyl)-N-methylcarbamic acid tert-butylester (4.40 g, 12.4 mmol) was kept for 8 h under a hydrogen atmosphere at (pressure: 1 atm). The reaction mixture was flushed with nitrogen and filtered through a plug of celite. The solvent was removed. The crude product was purified by flash chromatography on silica (110 g), using dichloromethane/methanol/25% aqueous ammonia as eluent, to give 830 mg of N-((1R)-1-aminomethyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester.

reactant | N-((1R)-1-benzyl-2-(benzylamino)ethyl)-N-methylcarbamic acid tert-butylester | 12.4 mmol, 4.40 g | C(C)(C)(C)OC(N(C)[C@@H](CNCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C22H30N2O2
catalyst | palladium hydroxide on charcoal | 4.63 g | [OH-].[OH-].[Pd+2]
product | N-((1R)-1-aminomethyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 830 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)CN)=O | C15H24N2O2
